US09102671B2
A solution of 5-((2R,4S)-4-carbamoyl-2-(3-fluorophenyl)pyrrolidin-1-yl)-N,N-bis(4-methoxybenzyl)pyrazolo[1,5-a]pyridine-3-carboxamide (I-54) (10 mg, 0.016 mmol) in TFA (0.5 mL) was heated to 60° C. for 2 hours. The reaction was reduced to dryness and the crude material was taken up in DMSO and purified by preparative LCMS and lyophilized to give 5-((2R,4S)-4-carbamoyl-2-(3-fluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyridine-3-carboxamide (X-26). 1H NMR (400 MHz, DMSO) δ 8.38 (d, J=7.7 Hz, 1 H), 8.26 (s, 1 H), 7.53 (s, 1 H), 7.44-7.31 (m, 1H), 7.15-7.01 (m, 2 H), 6.96 (s, 1 H), 6.31 (d, J=7.1 Hz, 1 H), 5.13 (d, J=8.0 Hz, 1 H), 3.98-3.85 (m, 1 H), 3.65-3.54 (m, 1 H), 3.20-3.07 (m, 1 H), 2.60-2.52 (m, 1 H), 2.08 (dd, J=6.9, 12.0 Hz, 1 H). MS m/z 368.1 (M+1)+.

reactant | 5-((2R,4S)-4-carbamoyl-2-(3-fluorophenyl)pyrrolidin-1-yl)-N,N-bis(4-methoxybenzyl)pyrazolo[1,5-a]pyridine-3-carboxamide | 0.016 mmol, 10 mg | C(N)(=O)[C@H]1C[C@@H](N(C1)C1=CC=2N(C=C1)N=CC2C(=O)N(CC2=CC=C(C=C2)OC)CC2=CC=C(C=C2)OC)C2=CC(=CC=C2)F | C35H34FN5O4
solvent | TFA | 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DMSO | CS(=O)C | C2H6OS
product | 5-((2R,4S)-4-carbamoyl-2-(3-fluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyridine-3-carboxamide | C(N)(=O)[C@H]1C[C@@H](N(C1)C1=CC=2N(C=C1)N=CC2C(=O)N)C2=CC(=CC=C2)F | C19H18FN5O2
